US08252781B2
Preparation of 2-cyclooctyl-4,4-dimethyl-1-[(3-methylphenyl)carbonyl]-1,2-diazetidin-3-one
2-Cyclooctyl-4,4-dimethyl-1,2-diazetidin-3-one and 3-methylbenzoyl chloride were used for a similar reaction and treatment as Example 96, and the title compound was obtained as a colorless oil.

reactant | 2-Cyclooctyl-4,4-dimethyl-1,2-diazetidin-3-one | C1(CCCCCCC1)N1NC(C1=O)(C)C | C12H22N2O
reactant | 3-methylbenzoyl chloride | CC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO
product | 2-cyclooctyl-4,4-dimethyl-1-[(3-methylphenyl)carbonyl]-1,2-diazetidin-3-one | C1(CCCCCCC1)N1N(C(C1=O)(C)C)C(=O)C1=CC(=CC=C1)C | C20H28N2O2
